US05011947
2-Ethyl-3,3-bis(4-fluorophenyl)-2-propenal
Activated manganese dioxide (49 g) was added to a solution of 2-ethyl-3,3-bis(4-fluorophenyl)-2-propenol (7 g, 25.5 mmol) in 100 mL of methylene chloride and the mixture stirred for 18 hours. The insolubles were removed and the solution concentrated in vacuo to give 6.9 g of the title compound as an oil. MS(CI): m/e =272 for M+ of C17H14F2O.

reactant | 2-ethyl-3,3-bis(4-fluorophenyl)-2-propenol | 25.5 mmol, 7 g | C(C)C(CO)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H16F2O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 49 g | [O-2].[O-2].[Mn+4]
product | 2-Ethyl-3,3-bis(4-fluorophenyl)-2-propenal | 6.9 g | C(C)C(C=O)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H14F2O
